US06867218B2
Azodicarboxylic dipiperidide (0.731 g, 2.9 mmol) was added at 0-5° C. to a stirred solution of tributylphosphine (0.71 ml, 0.58 g, 2.9 mmol), (S)-ethyl 2-ethoxy-3-(4-hydroxyphenyl)-propionate (0.483 g, 2.03 mmol) and (E)-3-(4′-chloro-biphenyl-4-yl)-but-2-en-1-ol (0.500 g, 1.93 mmol) in dry benzene (15 ml), the mixture warmed to room temperature, and stirred for 3 h. The resulting mixture was diluted with water and ethyl acetate (30 ml each), the aqueous layer collected and further extracted with ethyl acetate (30 ml). The organic layers were combined, washed with brine, dried (MgSO4) and evaporated. The crude product was then purified by column chromatography on silica (20% ethyl acetate in n-heptane eluent) to give (E)-(S)-ethyl 3-{4-[3-(4′-chloro-biphenyl-4-yl)-but-2-enyloxy]-phenyl}-2-ethoxy-propionate as a gum; 0.69 g (75%).

reactant | tributylphosphine | 2.9 mmol, 0.71 ml, 0.58 g | C(CCC)P(CCCC)CCCC | C12H27P
reactant | (S)-ethyl 2-ethoxy-3-(4-hydroxyphenyl)-propionate | 2.03 mmol, 0.483 g | C(C)O[C@H](C(=O)OCC)CC1=CC=C(C=C1)O | C13H18O4
reactant | (E)-3-(4′-chloro-biphenyl-4-yl)-but-2-en-1-ol | 1.93 mmol, 0.500 g | ClC1=CC=C(C=C1)C1=CC=C(C=C1)/C(=C/CO)/C | C16H15ClO
solvent | benzene | 15 ml | C1=CC=CC=C1 | C6H6
solvent | water | O | H2O
solvent | ethyl acetate | 30 ml | C(C)(=O)OCC | C4H8O2
product | (E)-(S)-ethyl 3-{4-[3-(4′-chloro-biphenyl-4-yl)-but-2-enyloxy]-phenyl}-2-ethoxy-propionate | ClC1=CC=C(C=C1)C1=CC=C(C=C1)/C(=C/COC1=CC=C(C=C1)C[C@@H](C(=O)OCC)OCC)/C | C29H31ClO4
